US08420816B2
STEP A: (S)-tert-butyl 1-oxo-1-(pyrrolidin-1-yl)butan-2-ylcarbamate
To a mixture of (S)-2-(tert-butoxycarbonylamino)butanoic acid (1.4 g, 6.89 mmol), HATU (3.14 g, 8.27 mmol), and pyrrolidine (1.216 mL, 13.78 mmol) in DCM (50 mL) was added Et3N (1.920 mL, 13.78 mmol). The reaction mixture was stirred at room temperature for 5 h and then washed with saturated aqueous NaHCO3 and brine. The organics were dried over MgSO4 and concentrated. Purification by silica column chromatography (MeOH/DCM, 0-10%) afforded the title compound as a light yellow oil (1.75 g, 99%). 1H NMR (500 MHz, CDCl3) δ 0.94 (t, J=7.57 Hz, 3 H) 1.34-1.48 (m, 9 H),1.49-1.68 (m, 1 H) 1.68-1.81 (m, 1 H) 1.81-1.92 (m, 2 H) 1.92-2.03 (m, 2 H) 3.34-3.47 (m,2 H) 3.52 (dt, J=12.08, 7.14 Hz, 1 H) 3.65 (dt, J=10.13, 6.65 Hz, 1 H) 4.30-4.42 (m, 1 H) 5.35 (d, J=8.30 Hz, 1 H).

reactant | (S)-2-(tert-butoxycarbonylamino)butanoic acid | 6.89 mmol, 1.4 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | HATU | 8.27 mmol, 3.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrrolidine | 13.78 mmol, 1.216 mL | N1CCCC1 | C4H9N
reactant | Et3N | 13.78 mmol, 1.920 mL | CCN(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-oxo-1-(pyrrolidin-1-yl)butan-2-ylcarbamate | 1.75 g, 99% | O=C([C@H](CC)NC(OC(C)(C)C)=O)N1CCCC1 | C13H24N2O3
